US09382234B2
A 250 mL round bottom flask was charged with 1-(pyrimidin-4-yl)piperidin-4-yl methanesulfonate (713 mg, 2.77 mmol), methyl 5-chloro-3-hydroxy-2-methylbenzoate (0.301 mL, 2.218 mmol), Cs2CO3 (867 mg, 2.66 mmol) and N,N-dimethylformamide (6 mL). The flask was equipped with a reflux condenser and heated at 60° C. for 3 days, at which time the solvent was removed in vacuo. The residue was diluted with EtOAc (120 mL) and mixture filtered. LCMS showed some starting chlorophenol remained, so the EtOAc was removed in vacuo and the residue dissolved in N,N-dimethylformamide (6 mL). Cs2CO3 (867 mg, 2.66 mmol) was added and the reaction was heated to 80° C. overnight, at which time the solvent was removed in vacuo. The residue was diluted with EtOAc (120 mL) and mixture was filtered. The EtOAc was removed in vacuo and crude residue was purified by reverse phase HPLC (Column: Phenomenex Gemini-NX, 30×100, 5μ, C18. Gradient: 7 min, 30-60% acetonitrile/0.1% formic acid in water). Two additional HPLC purifications using the same column (Gradient: 7 min, 10-90% acetonitrile/0.1% formic acid in water; and Gradient: 7 min, 10-90% acetonitrile/0.1% TFA in water) were performed to provide methyl 5-chloro-2-methyl-3-((1-(pyrimidin-4-yl)piperidin-4-yl)oxy)benzoate (335 mg, 0.926 mmol, 41.7% yield) as a yellow viscous oil. 1H NMR (400 MHz, DMSO-d6) δ 8.82 (s, 1H), 8.34 (dd, J=1.52, 7.58 Hz, 1H), 7.44 (d, J=2.02 Hz, 1H), 7.34 (d, J=2.02 Hz, 1H), 7.27 (d, J=7.58 Hz, 1H), 4.85-4.96 (m, 1H), 4.05 (br. s., 2H), 3.91 (br. s., 2H), 3.83 (s, 3H), 2.30 (s, 3H), 2.01-2.13 (m, 2H), 1.71-1.87 (m, J=3.92, 7.03, 7.03, 13.61Hz, 2H). MS(ES) [M+H]+ 362.1.

reactant | 1-(pyrimidin-4-yl)piperidin-4-yl methanesulfonate | 2.77 mmol, 713 mg | CS(=O)(=O)OC1CCN(CC1)C1=NC=NC=C1 | C10H15N3O3S
reactant | methyl 5-chloro-3-hydroxy-2-methylbenzoate | 2.218 mmol, 0.301 mL | ClC=1C=C(C(=C(C(=O)OC)C1)C)O | C9H9ClO3
reactant | Cs2CO3 | 2.66 mmol, 867 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Cs2CO3 | 2.66 mmol, 867 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | methyl 5-chloro-2-methyl-3-((1-(pyrimidin-4-yl)piperidin-4-yl)oxy)benzoate | 0.926 mmol, 335 mg, 41.7% yield | ClC=1C=C(C(=C(C(=O)OC)C1)C)OC1CCN(CC1)C1=NC=NC=C1 | C18H20ClN3O3
